US09340564B2
Step 4 Preparation of 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(2-((methylamino)methyl)thiazol-5-yl)phenyl)oxazolidin-3-yl)ethanone
Mesyl anhydride (860 mg, 4.9 mmol) is added to 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-5-(4-(2-(hydroxymethyl)thiazol-5-yl)phenyl)-2,2-dimethyl-oxazolidin-3-yl)ethanone (1.4 g, 3.5 mmol) in CH2Cl2 (35 mL). Pyridine (0.5 mL, 5.9 mmol) is added and stirred at room temperature for 1 hour. The reaction is diluted with CH2Cl2 (35 mL) and washed with water and brine. The organic phase is dried (Na2SO4) and concentrated under vacuum. The crude mesylate is dissolved in acetonitrile (10 mL) and transferred to a scintillation vial. Diisopropylethylamine (0.65 mL, 3.7 mmol) and metyhlamine HCl (130 mg, 1.9 mmol) are added and the reaction mixture is heated to 55° C. for 18 hours. The reaction mixture is cooled and diluted with saturated NaHCO3 (75 mL). The reaction mixture is extracted with CH2Cl2 (2×75 mL) and the combined organic phase is dried (Na2SO4) and concentrated under vacuum to afford the title compound (475 mg): m/z (Cl) M+H 414.

reactant | 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-5-(4-(2-(hydroxymethyl)thiazol-5-yl)phenyl)-2,2-dimethyl-oxazolidin-3-yl)ethanone | 3.5 mmol, 1.4 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C1=CN=C(S1)CO)(C)C)F | C18H19F3N2O3S
reactant | Pyridine | 5.9 mmol, 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | Diisopropylethylamine | 3.7 mmol, 0.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 1.9 mmol, 130 mg | Cl | ClH
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
product | 2,2-difluoro-1-((4S,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(2-((methylamino)methyl)thiazol-5-yl)phenyl)oxazolidin-3-yl)ethanone | 475 mg | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C1=CN=C(S1)CNC)(C)C)F | C19H22F3N3O2S
